US05891971
Block Copolymerization To a 3 necked round bottom flask was added n-butyl acrylate (25 mL), glucose (0.119 grams), NaHCO3 (0.139 grams) and a polystyrene TEMPO terminated (2.068 g, Mn=6,000). This was purged with argon gas bubbling through the solution for 25 minutes. Then the flask was heated by immersion into a preheated oil bath of 145° C. After 5 hours, poly(styrene-b-n-butyl acrylate) was obtained with Mn=29,594, and PD=2.18 and conversion of 62 percent.

reactant | n-butyl acrylate | 25 mL | C(C=C)(=O)OCCCC | C7H12O2
reactant | glucose | 0.119 grams | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NaHCO3 | 0.139 grams | C(=O)(O)[O-].[Na+]
product | styrene b-n-butyl acrylate | C=CC1=CC=CC=C1.C(C=C)(=O)OC(C)CC | InChI=1S/C8H8.C7H12O2/c1-2-8-6-4-3-5-7-8;1-4-6(3)9-7(8)5-2/h2-7H,1H2;5-6H,2,4H2,1,3H3
